US05243057
1. Preparation of 4,5-Dichloromethyl-1,3-dioxolane
A three-neck 500-mL flask equipped with a thermometer, a mechanical stirrer, an addition funnel, a condenser, and a positive nitrogen atmosphere was charged with 1,4-dichloro-2,3-butanediol (50.0 g, 0.314 mole), trioxane (9.43 g, 0.314 mole), and 1,2-dichloroethane (EDC) (300 mL). The 1,4-dichloro-2,3-butanediol was not totally dissolved. Concentrated sulfuric acid (46.3 g, 0.455 mole) was then added dropwise over eight minutes. During the addition period, a slight exotherm was noticed and the flask was immersed in an ice bath to maintain the reaction temperature at 21.5° C. to 25.5° C. for 2.1 hours. The reaction mixture was permitted to settle overnight. The acid layer was removed, washed once with 30 mL EDC, and discarded. The combined EDC solutions were quenched with 2% NaHCO3 (600 mL), washed with deionized water (400 mL), 1% NaHCO3 solution (400 mL), deionized water (400 mL, twice), and stripped in vacuo. The resulting light yellow liquid weighed 48.9 g (89.5% yield), and contained 1.8% EDC and 98.2% dl- and meso-(4,5-dichloromethyl)-1,3-dioxolane, as determined by GC analysis and proton NMR (CDCl3) δ (s, --OCH2O--), 4.1 (m, ClCH2CHCHCH2Cl), 3.6(d, ClCH2CHCHCH2Cl).

reactant | 1,4-dichloro-2,3-butanediol | 0.314 mole, 50.0 g | ClCC(C(CCl)O)O | C4H8Cl2O2
reactant | trioxane | 0.314 mole, 9.43 g | O1OOCCC1 | C3H6O3
reactant | sulfuric acid | 0.455 mole, 46.3 g | S(O)(O)(=O)=O | H2O4S
solvent | 1,2-dichloroethane | 300 mL | ClCCCl | C2H4Cl2
product | 4,5-Dichloromethyl-1,3-dioxolane | 89.5% yield | ClCC1OCOC1CCl | C5H8Cl2O2
